US07635715B2
Step B: Preparation of ethyl 5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroisoquinoline-6-carboxylate
A mixture of potassium t-butoxide (0.34 g, 3.0 mmol) in 8 mL NMP stirred at room temperature was treated with a solution of ethyl 2-(3-fluoroisonicotinoyl)-4-methyl-3-oxopentanoate (0.28 g, 1.00 mmol) in 1 mL NMP drop wise. The dark red solution was stirred at room temperature for 15 hours, M+1=262. There were two spots that had the MS=262. The mixture was poured into 200 mL water. The mixture was extracted with DCM (3×50 mL). The combined organic layers were washed with brine (20 mL), dried, and concentrated. The crude product was purified by column eluting with 10-50% EtOAc/hexane to give 0.2 g oil. MS m/e: (M+H)+ 262.

reactant | potassium t-butoxide | 3.0 mmol, 0.34 g | CC(C)([O-])C.[K+]
reactant | ethyl 2-(3-fluoroisonicotinoyl)-4-methyl-3-oxopentanoate | 1.00 mmol, 0.28 g | FC1=C(C(=O)C(C(=O)OCC)C(C(C)C)=O)C=CN=C1 | C14H16FNO4
reactant | water | 200 mL | O | H2O
solvent | NMP | 8 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | ethyl 5-hydroxy-8,8-dimethyl-7-oxo-7,8-dihydroisoquinoline-6-carboxylate | 0.2 g | OC=1C=2C=CN=CC2C(C(C1C(=O)OCC)=O)(C)C | C14H15NO4
